US06756392B2
3-Hydroxy-benzoic acid (27 mg, 0.19 mmol), 1-hydroxybenzotriazole (31 mg, 0.23 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (45 mg, 0.23 mmol) were added to a solution of 3-[3-(4-aminomethyl-benzylcarbamoyl)-pyridin-2-yloxy]-benzoic acid ethyl ester hydrochloride (100 mg, 0.19 mmol) (see Preparation 9) and N-methyl morpholine (0.11 ml, 0.97 mmol) in N,N-dimethylformamide (15 ml). The reaction mixture was stirred at room temperature under a nitrogen atmosphere for 18 hours, concentrated in vacuo and the residue partitioned between dichloromethane (20 ml) and water (20 ml). The organic phase was separated, washed with a saturated aqueous solution of sodium chloride (20 ml), dried over anhydrous magnesium sulphate and concentrated under reduced pressure. The residue was then purified by flash column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (99:1 changing to 98:1, by volume) giving 3-(3-{4-[(3-hydroxy-benzoylamino)-methyl]-benzylcarbamoyl}-pyridin-2-yloxy)-benzoic acid ethyl ester (45 mg) as an off-white foam.

reactant | 3-Hydroxy-benzoic acid | 0.19 mmol, 27 mg | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | 1-hydroxybenzotriazole | 0.23 mmol, 31 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.23 mmol, 45 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-[3-(4-aminomethyl-benzylcarbamoyl)-pyridin-2-yloxy]-benzoic acid ethyl ester hydrochloride | 0.19 mmol, 100 mg | Cl.C(C)OC(C1=CC(=CC=C1)OC1=NC=CC=C1C(NCC1=CC=C(C=C1)CN)=O)=O
reactant | N-methyl morpholine | 0.97 mmol, 0.11 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(3-{4-[(3-hydroxy-benzoylamino)-methyl]-benzylcarbamoyl}-pyridin-2-yloxy)-benzoic acid ethyl ester | 45 mg | C(C)OC(C1=CC(=CC=C1)OC1=NC=CC=C1C(NCC1=CC=C(C=C1)CNC(C1=CC(=CC=C1)O)=O)=O)=O | C30H27N3O6
